US04931457
3-(2-Naphthyloxy)-4-pyridinamine
A suspension of 3-(2-naphthyloxy)-4-nitropyridine-N-oxide (8.5 g) in 250 ml ethanol containing 0.5 g platinum oxide was hydrogenated for 20 hours at 60 psi and thereafter filtered through Celite. The filtrate liquid was concentrated to 8.3 g oil. This oil was purified by flash chromatography (silica, ethyl acetate) to give a solid (7 g). This solid was recrystallized from anhydrous ether to give crystals, 4.6 g, mp 117°-118° C.

reactant | 3-(2-naphthyloxy)-4-nitropyridine-N-oxide | 8.5 g | C1=C(C=CC2=CC=CC=C12)OC=1C=[N+](C=CC1[N+](=O)[O-])[O-] | C15H10N2O4
solvent | ethanol | 250 ml, 0.5 g | C(C)O | C2H6O
product | 3-(2-Naphthyloxy)-4-pyridinamine | 7 g | C1=C(C=CC2=CC=CC=C12)OC=1C=NC=CC1N | C15H12N2O
